US04640915
A mixture of 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-1,3,4-oxadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (50 mg), platinum (IV) oxide monohydrate (50 mg), ethanol (0.5 ml) and 0.1M aqueous solution of dipotassium hydrogen phosphate (2.35 ml) in a mixture of water (2.5 ml) and dioxane (6 ml) was shaken under a hydrogen atmosphere (40 psi) at ambient temperature for an hour. After the catalyst was filtered off, the filtrate was evaporated to half of the original volume. The resultant aqueous solution was washed three times with diethyl ether and then evaporated in vacuo. The residue was dissolved in water (25 ml) and the resultant aqueous solution was chromatographed on nonionic adsorption resin "Diaion HP-20AG" eluting with water (100 ml) and 10% aqueous isopropyl alcohol (100 ml). The fractions, whose UV spectra showed λmax 292 nm, were combined and lyophilized to give potassium (5R, 6R)-6-(1-hydroxy-1-methylethyl)-3-(5-methyl-1,3,4-oxadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (14.3 mg) as powder.

reactant | 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-1,3,4-oxadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 50 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC=1OC(=NN1)C | C28H25N5O11S
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
reactant | dipotassium hydrogen phosphate | 2.35 ml | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | water | 2.5 ml | O | H2O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | platinum (IV) oxide monohydrate | 50 mg | O.[Pt](=O)=O
product | potassium (5R, 6R)-6-(1-hydroxy-1-methylethyl)-3-(5-methyl-1,3,4-oxadiazol-2-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 14.3 mg | OC(C)(C)[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])SC=1OC(=NN1)C.[K+] | InChI=1S/C13H15N3O5S.K/c1-5-14-15-12(21-5)22-7-4-6-8(13(2,3)20)10(17)16(6)9(7)11(18)19;/h6,8,20H,4H2,1-3H3,(H,18,19);/q;+1/p-1/t6-,8+;/m1./s1
